US04420487
Preparation of 5-Chloro-2-propyl-6-sulfamyl-1H-Benzimidazole
A mixture of 9.0 g of 2-amino-4-chloro-5-sulfamyl aniline, 14.1 g of butyric acid, and 40.3 ml of a 15% hydrochloric acid solution was refluxed for 6 hours and then concentrated in vacuo to a solid. The solid was dissolved in hot methanol, treated with charcoal, boiled ten minutes, and filtered. Concentration in vacuo provided a solid which was then added portionwise to 200 ml of concentrated ammonium hydroxide. The free base was then recrystallized from acetonitrile to yield 4.5 g of pink crystals, m.p. 230°-234°.

reactant | 2-amino-4-chloro-5-sulfamyl aniline | 9.0 g | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | butyric acid | 14.1 g | C(CCC)(=O)O | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | ammonium hydroxide | 200 ml | [OH-].[NH4+]
product | 5-Chloro-2-propyl-6-sulfamyl-1H-Benzimidazole | 4.5 g | ClC1=CC2=C(NC(=N2)CCC)C=C1S(N)(=O)=O | C10H12ClN3O2S
